US09109057B2
The polymerization reaction was conducted in a 300 ml stainless autoclave equipped with a mechanical stirrer. In an argon filled dry-box, the reactor was charged with 50 ml of toluene, 0.2 ml of DVB, and various volume ratios of 1-octene and tert-butylstyrene (Oct/BSt=7/3, 6/4, 5/5, 6/4, and 7/3 ml). The reactor was then sealed and then moved from the dry box and purged with nitrogen gas at 30° C. About 0.101 g of TiCl3(AA) and 1 ml of AlCl2Et in 10 ml of toluene, after mixing for 20 minutes by stirring, were introduced to the reactor under nitrogen pressure to initiate the polymerization. After about 1 hour, the reaction was terminated by adding 100 ml of dilute HCl solution in methanol to the reactor. The 1-octene/t-butylstyrene/divinylbenzene terpolymers were isolated by filtration and washed completely with methanol and dried under vacuum for about 8 hours. The resulting terpolymers were completely soluble in common organic solvents, including toluene and decalin. Before absorption measurement, the resulting terpolymers were divided into ½ inch sized particles and heated in an oven at about 220° C. for about 2 hours to obtain fully cross-linked samples. Table 3 provides absorption capacity data for the samples in toluene after 5 hours and 16 hours.

reactant | 1-octene | C=CCCCCCC | C8H16
reactant | tert-butylstyrene | 3 ml | C(C)(C)(C)C=CC1=CC=CC=C1 | C12H16
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-octene t-butylstyrene divinylbenzene | C=CCCCCCC.C(C)(C)(C)C=CC1=CC=CC=C1.C(=C)C1=C(C=CC=C1)C=C | InChI=1S/C12H16.C10H10.C8H16/c1-12(2,3)10-9-11-7-5-4-6-8-11;1-3-9-7-5-6-8-10(9)4-2;1-3-5-7-8-6-4-2/h4-10H,1-3H3;3-8H,1-2H2;3H,1,4-8H2,2H3
